US05157124
t-Butyl 3-[4-(dimethylamino)-2-butynyl]-2-oxo-1-imidazolidinecarboxylate
This product, a liquid, was prepared according to Example 1 by substituting dimethylamine for pyrrolidine and 1-t-butoxycarbonyl-2-imidazolidinone for 1-methyl-2-imidazolidinone.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 1-t-butoxycarbonyl-2-imidazolidinone | C(C)(C)(C)OC(=O)N1C(NCC1)=O | C8H14N2O3
reactant | 1-methyl-2-imidazolidinone | CN1C(NCC1)=O | C4H8N2O
product | t-Butyl 3-[4-(dimethylamino)-2-butynyl]-2-oxo-1-imidazolidinecarboxylate | CN(CC#CCN1C(N(CC1)C(=O)OC(C)(C)C)=O)C | C14H23N3O3
